US05360802
Step 3: N-[3(R,S)-5-Cyclohexyl-2,3-dihydro-1-methyl-2-oxo-1H-1,4-benzodiazepin-3-yl]N'-[ 3-(methylcarbonylaminosulphonyl) phenyl]urea
The title compound was prepared in the same way as that described in Example 11, Step 4, using 5-cyclohexyl-l,3-dihydro-1-methyl-3(R,S)-[(4-nitrophenyloxycarbonyl)amino ]-2H-1,4-benzodiazepin-2-one (0.5 g, 1.2 mmol), triethylamine (0.16 ml, 1.2 mmol), dimethylformamide (10 ml) and 1-(methylcarbonylaminosulphonyl)-3-aminobenzene (0.26 g, 1.2 mmol).After recrystallisation from methanol, the title compound (0.2 g, 34%) was afforded as a colourless solid. mp 195°-198° C. 1H NMR (360 MHz, D6 -DMSO) δ 0.87-0.99 (1H, m), 1.10-1.66 (7H, m), 1.78 (1H, m), 1.94 (1H, m), 1.91 (3H, s), 2.95 (1H, m), 3.30 (3H, s), 5.07 (1H, d, J=8.3 Hz), 7.39 (4H, m), 7.54 (2H, m), 7.64 (1H, dd, J=7.9 and 7.9 Hz), 7.76 (1H, d, J=7.9 Hz), 8.07 (1H, s), 9.42 (1H, s), 11.99 (1H, brs).

reactant | 5-cyclohexyl-l,3-dihydro-1-methyl-3(R,S)-[(4-nitrophenyloxycarbonyl)amino ]-2H-1,4-benzodiazepin-2-one | 1.2 mmol, 0.5 g | C1(CCCCC1)C1=NC(C(N(C2=C1C=CC=C2)C)=O)NC(=O)OC2=CC=C(C=C2)[N+](=O)[O-] | C23H24N4O5
reactant | triethylamine | 1.2 mmol, 0.16 ml | C(C)N(CC)CC | C6H15N
reactant | 1-(methylcarbonylaminosulphonyl)-3-aminobenzene | 1.2 mmol, 0.26 g | CC(=O)NS(=O)(=O)C1=CC(=CC=C1)N | C8H10N2O3S
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | N-[3(R,S)-5-Cyclohexyl-2,3-dihydro-1-methyl-2-oxo-1H-1,4-benzodiazepin-3-yl]N'-[ 3-(methylcarbonylaminosulphonyl) phenyl]urea | 0.2 g, 34% | C1CCCC(C1)C1(C(N(C2=C(C=N1)C=CC=C2)C)=O)NC(=O)NC2=CC(=CC=C2)S(=O)(=O)NC(=O)C | C25H29N5O5S
